US06919322B2
Preparation of N-(Phosphonomethyl)-5-bromofuran-2-carboxamide (Compound No. 8.01)
5-Bromofuroic acid was reacted with diethyl aminomethylphosphonate in a manner similar to that described in Step D, Example 5. The product was treated with TMSBr as described in Step D, Example 1 to provide the title compound (no. 8.01) as a solid. HPLC Rt=3.72 min; negative ion electrospray MS M−1 found: 282/284.

reactant | 5-Bromofuroic acid | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | diethyl aminomethylphosphonate | NCP(OCC)(OCC)=O | C5H14NO3P
reactant | TMSBr | C[Si](C)(C)Br | C3H9BrSi
product | N-(Phosphonomethyl)-5-bromofuran-2-carboxamide | P(=O)(O)(O)CNC(=O)C=1OC(=CC1)Br | C6H7BrNO5P
